US08703761B2
(2-Amino-4-trifluoromethyl-thiazol-5-yl)-p-tolyl-methanone
4,4,4-trifluoro-1-p-tolylbutane-1,3-dione (4 g, 17.4 mmol) in 100 mL dichloromethane at 0° C. under N2 was treated in portions with 3.09 g (17.4 mmol) N-bromosuccinimide. A white precipitate gradually formed. After 4.5 h solids were filtered off, the filtrate was washed with water and brine and dried over Na2SO4, then evaporated. The residue was taken up in 100 mL EtOH, treated with 1.32 g (17.4 mmol)thiourea and 1.04 g (17.4 mmol) silica and heated at 70° C. overnight. The reaction was cooled, filtered and evaporated. The crude was taken up in EtOAc, washed with NaHCO3 and brine, dried over Na2SO4 and evaporated. Trituration with Et2O: heptane provided 1.31 g desired as a yellow solid, still containing impurities. Chromatography (SiO2, EtOAc: dichloromethane) provided the title compound. The filtrate from the trituration also contained desired material and was similarly purified to provide the title compound. LCMS (method A) 287.1 (M+H), 285.2 (M−H). 1H-NMR (400 MHz, Chloroform-d) ppm 2.45 (s, 3H), 5.68 (br s, 2H), 7.29 (d, J=7.96 Hz, 2H), 7.77 (d, J−8.21 Hz, 2H).

reactant | 4,4,4-trifluoro-1-p-tolylbutane-1,3-dione | 17.4 mmol, 4 g | FC(C(CC(=O)C1=CC=C(C=C1)C)=O)(F)F | C11H9F3O2
reactant | N-bromosuccinimide | 17.4 mmol, 3.09 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | thiourea | 17.4 mmol, 1.32 g | NC(=S)N | CH4N2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (2-Amino-4-trifluoromethyl-thiazol-5-yl)-p-tolyl-methanone | NC=1SC(=C(N1)C(F)(F)F)C(=O)C1=CC=C(C=C1)C | C12H9F3N2OS
